.subckt and inp1 inp2 out vdd gnd 

Mp1	outn	inp1	vdd 	vdd 	CMOSP W={2*XX*Wmin} L={Lmin} 
Mp2	outn	inp2	vdd 	vdd 	CMOSP W={2*XX*Wmin} L={Lmin} 
Mn1	outn	inp1	nodez 	gnd 	CMOSN W={2*XX*Wmin} L={Lmin}
Mn2	nodez	inp2	gnd 	gnd     CMOSN W={2*XX*Wmin} L={Lmin}

Mp3	out	 outn	vdd 	vdd 	CMOSP W={2*XX*Wmin} L={Lmin} 
Mn3	out	 outn	gnd 	gnd 	CMOSN W={2*XX*Wmin} L={Lmin}

Cout out gnd 1f

.ends