.include xor.sub
.include and.sub
.include or.sub

.subckt halfadd in1 in2 cout sum vdd gnd

xxor in1 in2 sum vdd gnd xor
xand in1 in2 cout vdd gnd and

Ccout cout gnd 1f
Csum sum gnd 1f

.ends

.subckt fadder in1 in2 cin cout sum vdd gnd

xhalfadder1 in1 in2 x y vdd gnd halfadd
xhalfadder2 cin y z sum vdd gnd halfadd
x_or x z cout vdd gnd or

Ccout cout gnd 1f
Csum sum gnd 1f

.ends