.subckt or in1 in2 out vdd gnd

MN1 n01 in1 gnd gnd CMOSN W={2*XX*Wmin} L={Lmin}
MN2 n01 in2 gnd gnd CMOSN W={2*XX*Wmin} L={Lmin}
MP1 n01 in1 n02 n02 CMOSP W={2*XX*Wmin} L={Lmin}
MP2 n02 in2 vdd vdd CMOSP W={2*XX*Wmin} L={Lmin}


MN3 out n01 gnd gnd CMOSN W={2*XX*Wmin} L={Lmin}
MP3 out n01 vdd vdd CMOSP W={2*XX*Wmin} L={Lmin}

Cout out gnd 1f

.ends

